US08859574B2
To a solution of triethylamine (2.9 g, 14.4 mmol) and 5-methoxy-2-methylaniline (1.0 g, 7.2 mmol) in DCM (30 mL) at 0° C., was added acetyl chloride (0.57 g, 7.2 mmol) dropwise. The mixture was stirred at room temperature for 1 hour. The reaction was quenched with saturated ammonium chloride aqueous solution, and extracted with DCM. The organic layer was dried over Na2SO4 and concentrated to give N-(5-methoxy-2-methylphenyl)acetamide as needle-shaped crystals. The crude product was used in the next step without further purification.

reactant | triethylamine | 14.4 mmol, 2.9 g | C(C)N(CC)CC | C6H15N
reactant | 5-methoxy-2-methylaniline | 7.2 mmol, 1.0 g | COC=1C=CC(=C(N)C1)C | C8H11NO
reactant | acetyl chloride | 7.2 mmol, 0.57 g | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(5-methoxy-2-methylphenyl)acetamide | COC=1C=CC(=C(C1)NC(C)=O)C | C10H13NO2
